US08957068B2
To a microwave vial with stir bar was added (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (24.96 mg, 0.103 mmol) in DMSO (1653 μL). To this reaction mixture was added (S)-1-(2,3-difluorophenyl)ethanamine (40 mg, 0.207 mmol) and DIEA (144 μL, 0.826 mmol). The vial capped and heated at 110° C. over the weekend. The solution was filtered, then purified by reverse phase HPLC. Product fractions combined, frozen and lyopholyzed to afford ((S)-3-(2-((S)-1-(2,3-difluorophenyl)ethylamino) pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (10.2 mg, 0.021 mmol, 10.26% yield) as a TFA salt. 1H NMR (400 MHz, CD3OD) δ ppm 0.59 (br. s., 3H) 0.75 (br. s., 3H) 1.59 (d, J=6.99 Hz, 3H) 1.69 (br. s., 1H) 4.37 (d, J=5.67 Hz, 2H) 4.66 (br. s., 1H) 5.40 (d, J=7.38 Hz, 1H) 7.06-7.23 (m, 3H) 7.70 (d, J=6.90 Hz, 1H) 8.14 (d, J=6.46 Hz, 1H); LCMS m/z 363.3 (M+H)+, Rt 0.77 min.; HRMS(A) m/z 363.1642 (M+H)+, Rt 1.89 min.

reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.103 mmol, 24.96 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | (S)-1-(2,3-difluorophenyl)ethanamine | 0.207 mmol, 40 mg | FC1=C(C=CC=C1F)[C@H](C)N | C8H9F2N
reactant | DIEA | 0.826 mmol, 144 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 1653 μL | CS(=O)C | C2H6OS
product | (S)-3-(2-((S)-1-(2,3-difluorophenyl)ethylamino) pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.021 mmol, 10.2 mg, 10.26% yield | FC1=C(C=CC=C1F)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C18H20F2N4O2
